US08426369B2
General Procedure for Synthesis of (Z) and (E) 1-(4-fluorostyryl)-3,5-dimethoxybenzene ARS21 and ARS22
To a solution of (3,5-dimethoxybenzyl)triphenylphosphonium bromide (300 mg, 0.6 mM), 4-fluorobenzaldehyde (133 mg, 1.07 mM), catalytic amounts of 18 crown-6 in DCM was added 1.5 mL of 50% solution of NaOH. The reaction was stirred for 5 h and water was added. The water phase was extracted with ethyl acetate and the organic phase was combined. The crude product was purified through flash chromatography eluting with hexanes/ethyl acetate (98:2).

reactant | (3,5-dimethoxybenzyl)triphenylphosphonium bromide | 0.6 mM, 300 mg | [Br-].COC=1C=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C(C1)OC
reactant | 4-fluorobenzaldehyde | 1.07 mM, 133 mg | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | NaOH | [OH-].[Na+]
reactant | water | O | H2O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 1-(4-fluorostyryl)-3,5-dimethoxybenzene | FC1=CC=C(C=CC2=CC(=CC(=C2)OC)OC)C=C1 | C16H15FO2
